US08877782B2
6-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 137, 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.25 mmol) was converted, using 4-aminotetrahydropyran instead of methylamine (2 M in THF), to the title compound (94 mg, 80%) which was obtained as a white solid. MS: m/e=466.0 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.25 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C18H12F4N2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-ylmethoxy]-N-(tetrahydro-pyran-4-yl)-nicotinamide | 94 mg, 80% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC2CCOCC2)C=C1)C(F)(F)F | C22H19F4N3O4
